US04455441
Repetition of the procedure described in Example 2 but using 1.00 g (4.23 mmol) of 10-bromodecanol and 0.5287 ml (4.23 mmol) of DAST in 50 mL methylene chloride affords the crude of 10-bromo-1-fluoro-decane. Purification by flash chromatography gives the 10-bromo-1-fluoro-decane (826 mg 3 82%) as a clear colorless liquid: Rf=0.73 hexane/ethyl acetate (7:3, v/v); IR (film) δ2850-3000 (alkane CH); and 1H-NMR (CDCl3) δ1.25-2.95 (m, 16H), 3.36 (t, J=6 Hz, 2H), 4.40 (dt, J=48 Hz, 2H).

reactant | 10-bromodecanol | 4.23 mmol, 1.00 g | BrCCCCCCCCCCO | C10H21BrO
reactant | DAST | 4.23 mmol, 0.5287 ml | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 10-bromo-1-fluoro-decane | BrCCCCCCCCCCF | C10H20BrF
